US05510362
2. 4-(1-Methyltetrazol-5-ylmethyl )nitrobenzene
A solution of methyl iodide (34.1 ml, 0.5 mol) in acetonitrile (100 ml) was added dropwise, over lh, to a solution of 4-(1H-tetrazol-5-ylmethyl)nitrobenzene (20.5 g, 0.1 mmol), and triethylamine (18.7 ml, 0.25 mol), in acetonitrile (500 ml), at room temperature. The mixture was stirred for 3h, the solvent removed under vacuum and residue dissolved in EtOAc (500 ml). The solution was washed with water (2x) and brine (1x) and the solvent evaporated. The crude product was chromatographed through silica-gel eluting with EtOAc/hexane (1:1)→EtOAc (100%) to give 2 components. The more polar product (7.9 g) was identified as the desired 1-methyl substituted tetrazole. The less polar product (7.0 g) was identified as being the 2-substitution product; 5 (360 MHz, CDCl3, more polar isomer) 3.94 (3H, s, CH3), 4.40 (2H, s, CH2), 7.42 (2H, d, J=8.7 Hz, Ar--H), 8.21 (2H, d, J=8.7Hz, Ar--H).

reactant | methyl iodide | 0.5 mol, 34.1 ml | CI | CH3I
reactant | 4-(1H-tetrazol-5-ylmethyl)nitrobenzene | 0.1 mmol, 20.5 g | N1N=NN=C1CC1=CC=C(C=C1)[N+](=O)[O-] | C8H7N5O2
reactant | triethylamine | 0.25 mol, 18.7 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-(1-Methyltetrazol-5-ylmethyl )nitrobenzene | CN1N=NN=C1CC1=CC=C(C=C1)[N+](=O)[O-] | C9H9N5O2
